US04760193
6-Bromo-3-methyl-1-methoxy-1,3,5-hexatriene (0.257 g; 1.26 mmol) is dissolved in ether (10 cc) is introduced, under an argon atmosphere, into a 25 cc round flask fitted with a thermometer and a magnetic stirrer. The flask is cooled to -70° C. tert-Butyllithium (1.2 cc, 1.8N in pentane; 2.1 mmol, i.e. 1.7 equivalent) is then added over 7 minutes while the temperature is kept below -68° C. The solution becomes slightly coloured from pale yellow to light chestnut-brown. It is stirred for 90 minutes at 70° C. β-Ionone (0.23 g; 1.196 mmol, i.e. 0.95 equivalent) dissolved in ether (3 cc) is then added. The mixture is stirred for 90 minutes at -30° C. 1N hydrochloric acid (4.5 cc) is added at -60° C. and the mixture is then stirred vigorously for 1 hour at 10° C. After phase separation, extraction with ether and evaporation of the solvent, a crude product (0.44 g) is obtained, which is purified by flash chromatography on silica, eluting with a mixture of petroleum ether and diethyl ether (98/2 by volume). Retinal (0.187 g) is obtained in this manner in 55% yield. The structure of the product is confirmed by the infrared spectrum and the proton nuclear magnetic resonance spectrum.

reactant | 6-Bromo-3-methyl-1-methoxy-1,3,5-hexatriene | 1.26 mmol, 0.257 g | BrC=CC=C(C=COC)C | C8H11BrO
reactant | tert-Butyllithium | 2.1 mmol, 1.8N, 1.2 cc, 1.7 equivalent | C(C)(C)(C)[Li]
reactant | β-Ionone | 1.196 mmol, 0.23 g, 0.95 equivalent | CC1=C(C(CCC1)(C)C)/C=C/C(=O)C | C13H20O
reactant | hydrochloric acid | 1N, 4.5 cc | Cl | ClH
solvent | ether | 10 cc | CCOCC | C4H10O
solvent | ether | 3 cc | CCOCC | C4H10O
product | Retinal | 0.187 g, 55% yield | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=O)/C)/C | C20H28O
